US05187172
0.74 parts of 3-hydroxy-4-methylthiazol-2-(3H)-thione, 0.84 parts of sodium bicarbonate and 30 parts of water were stirred at 0°-5° C. while 0.52 parts of acetic anhydride were added dropwise and the reaction mixture was stirred at 0°-5° C. for a further hour. A precipitate was formed which was separated by filtration and recrystallised from aqueous methanol. 0.33 parts of 3-acetoxy-4-methylthiazol-2(3H)-thione, of melting points 100°-101° C., was obtained.

reactant | 3-hydroxy-4-methylthiazol-2-(3H)-thione | ON1C(SC=C1C)=S | C4H5NOS2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 3-acetoxy-4-methylthiazol-2(3H)-thione | C(C)(=O)ON1C(SC=C1C)=S | C6H7NO2S2
